US06503949B1
trans-4-{[tert-Butoxycarbonyl-(4-hydroxycyclohexyl)amino]methyl}benzoic acid methyl ester (1.0 g, 2.75 mmol) was dissolved in THF (4 mL) and triphenylphosphine (1.12 g, 4.1 mmol) was added followed by addition of phenol (0.26 g, 2.75 mmol). Diethylazodicarboxylate (0.72 g, 4.1 mmol) dissolved in THF (2 mL) was added drop wise, and the reaction mixture was stirred for 16 hours. The reaction mixture was concentrated in vacuo. The residue was purified by flash chromatography (100 g silica) using ethyl acetate and heptane (1:9) as eluent to give 0.27 g of trans-4-{[tert-butoxycarbonyl-(4-phenoxycyclohexyl)amino]methyl}benzoic acid methyl ester. The ester was dissolved in ethanol (5 mL) and sodium hydroxide (4N, 1 mL) was added. After 5 hours the reaction mixture was concentrated in vacuo, the residue was dissolved in ethyl acetate (25 mL), and hydrochloric acid (4N, 1.3 mL) was added. The organic phase was washed with water (3×10 mL), dried (MgSO4) and concentrated in vacuo to give 0.25 g of trans-4-{[tert-butoxycarbonyl-(4-phenoxycyclohexyl)amino]methyl}benzoic acid.

reactant | trans-4-{[tert-Butoxycarbonyl-(4-hydroxycyclohexyl)amino]methyl}benzoic acid methyl ester | 2.75 mmol, 1.0 g | COC(C1=CC=C(C=C1)CN([C@@H]1CC[C@H](CC1)O)C(=O)OC(C)(C)C)=O | C20H29NO5
reactant | triphenylphosphine | 4.1 mmol, 1.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 2.75 mmol, 0.26 g | C1(=CC=CC=C1)O | C6H6O
reactant | Diethylazodicarboxylate | 4.1 mmol, 0.72 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | trans-4-{[tert-butoxycarbonyl-(4-phenoxycyclohexyl)amino]methyl}benzoic acid methyl ester | 0.27 g | COC(C1=CC=C(C=C1)CN([C@@H]1CC[C@H](CC1)OC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C26H33NO5
